US03947445
2-Methyl-2,5-diazabicyclo[2.2.2]octane
A solution of 2-benzoyl-5-methyl-2,5-diazabicyclo[2.2.2]octane (17.2 g, 0.074 mole) in concentrated hydrochloric acid (172 ml) was refluxed 48 hours. The solution was evaporated to dryness in vacuo and the residue triturated with diethyl ether. The supernatant, after centrifugation, was decanted, and the procedure was repeated using absolute ethanol. The hygroscopic residue of 2-methyl-2,5-diazabicyclo[2.2.2]octane . 2HCl (12.1 g, 81.5%) was dried in vacuo. It slowly decomposed above 300°C.

reactant | 2-benzoyl-5-methyl-2,5-diazabicyclo[2.2.2]octane | 0.074 mole, 17.2 g | C(C1=CC=CC=C1)(=O)N1C2CN(C(C1)CC2)C | C14H18N2O
solvent | hydrochloric acid | 172 ml | Cl | ClH
product | 2-Methyl-2,5-diazabicyclo[2.2.2]octane | CN1C2CNC(C1)CC2 | C7H14N2
